Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / aspirin
 
Attending: ___.
 
Chief Complaint:
Left hip pain
 
Major Surgical or Invasive Procedure:
Left hip hemiarthroplasty

 
History of Present Illness:
___ yo F who presents from ___ after 
mechanical fall and new femoral and humeral fracture.  
Patient reports that on morning of presentation she turned too 
quickly and tripped and fell to the floor on her left hip when 
walking back from the bathroom. She said prior to the fall she 
reports she had been felling nauseated and had some diarrhea 
over the last few days. She denies any head trauma or LOC. She 
called ___ using her MedAlert. She was taken to ___ where she 
was found to have a negative CT head, a proximal humeral 
fracture, and a distal femoral neck fracture on imaging. She was 
given morphine and zofran at the OSH and transferred to ___ 
for further care.  
Per pt's niece, she lives alone at home but has ___. She has 
fallen before - last falls in ___ (pt sustained rib 
fx).  
At baseline she reports she is able to walk a few blocks on her 
own. She is able to walk up 1 flight of stairs. At night she 
uses a walker and wears home oxygen which she says is "for her 
heart." She denies any chest pain and denies any shortness of 
breath, orthopnea, ankle edema, palpitations, syncope or 
presyncope.  
In the ED, initial vs were 97.1 97 115/58 16 97% on 3L. She was 
noted to have sats in the mid ___ without supplemental O2. Labs 
were notable for Cr of 1.6, H/H of 9.8/31.2. She was given 2 mg 
of morphine and had a subsequent drop in her blood pressure to 
low ___. She was given a 250 cc bolus with improvement in blood 
pressure to 120s/50s. CXR was unremarkable. Ortho was consulted 
and recommended medicine admission. She is consented and booked 
for OR in AM. Vitals upon transfer were 67 124/54 16 95% on 3L.  

On arrival to the floor, pt complaining of pain predominately in 
her left arm.  

 
Past Medical History:
PMH: Hypothyroidism, HTN, GERD, HL, Questionable MI 
PSH: Appendectomy, Tonsillectomy  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
ADMISSION:
VS 97.4 105/56 67 14 97% RA  
GEN Alert, oriented, in pain  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no LAD  
PULM Few crackles at right base anteriorly, otherwise clear. no 
wheezes.  
CV RRR normal S1/S2, no mrg  
ABD soft NT ND normoactive bowel sounds, no r/g  
EXT L. arm in sling. L. hip tender. WWP 2+ pulses palpable 
bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor exam limited due to fractures and 
pain  
SKIN no ulcers or lesions  
 
DISCHARGE:
POD#4
Vitals: 97.3/97.8, 150/84 (120s-150s/50s-80s), 102(90s-100s), 
95%ra
GEN: elderly women lying in bed, awake, interactive, AAOx3 NAD. 
HEENT: NCAT, Dry mucosa, oropharync clear, sceral anicteric
NECK: no JVD appreciated, supple without masses
HEART: Regular rate and rhythm, II/VI systolic murmur LLB. no 
rub or ___.
LUNGS: Not labored, full sentences, on RA during my exam without 
difficulty. 
ABD: thin, soft, NT/ND
LEFT HIP - pulses 2+ b/l. Left leg with full ROM. With bandage 
on left hip, I spoke with Ortho they plan to change bandage 
today.
LEFT SHOULDER - Left shoulder in sling
Neuro: AAOxself only. CN ___ grossly intact, tounge midline, 
EOMI, communicating appropriately, right arm and leg sensation 
and strength appropriate given POD#4
 
Pertinent Results:
ADMISSION:
___ 09:59PM BLOOD WBC-8.5# RBC-4.91 Hgb-9.8* Hct-31.2* 
MCV-64* MCH-19.9* MCHC-31.3 RDW-15.9* Plt ___
___ 09:59PM BLOOD Neuts-82.3* Lymphs-13.3* Monos-4.0 
Eos-0.3 Baso-0.1
___ 09:59PM BLOOD ___ PTT-35.5 ___
___ 09:59PM BLOOD Glucose-128* UreaN-41* Creat-1.6* Na-133 
K-4.8 Cl-103 HCO3-19* AnGap-16
___ 09:59PM BLOOD Calcium-8.9 Phos-4.7* Mg-1.6

STUDIES:
(___) CXR - IMPRESSION:  No acute chest abnormality.
(___) LEFT HIP - Transverse fracture through the left 
basicervical femoral neck
(___) LEFT KNEE - Transverse fracture through the left 
basicervical femoral neck
OSH imaging  
XR left shoulder: minimally displaced, surgical neck fracture w/ 
? of greater troch fx  
XR AP Pelvis: Left, displaced, basicervical FNF  

DISCHARGE:

___ 05:55AM BLOOD WBC-9.5 RBC-4.07* Hgb-8.2* Hct-26.2* 
MCV-65* MCH-20.0* MCHC-31.1 RDW-18.7* Plt ___
___ 01:55AM BLOOD Neuts-80.7* Lymphs-13.0* Monos-4.4 
Eos-1.8 Baso-0.1
___ 05:55AM BLOOD Plt ___
___ 05:55AM BLOOD Glucose-88 UreaN-32* Creat-1.2* Na-137 
K-3.9 Cl-108 HCO3-18* AnGap-15
___ 05:55AM BLOOD Calcium-8.6 Phos-1.8* Mg-2.0
___ 06:20AM BLOOD calTIBC-120* ___ TRF-92*
 
Brief Hospital Course:
___ yo F with who presents s/p fall who initially presented to 
OSH and found to have nondisplaced proximal humeral fracture and 
a distal femoral neck fracture on imaging who was transferred to 
___ for further care. Operation on ___. 
.
## FEMORAL FRACTURE - On ___ Ortho performed Left hip 
hemiarthroplasty with ___ components, unipolar, #7 press 
fitted stem, ___ mm
head. Post operation patient failed extubation and required 
intubation and <24 hour stay in ICU. CXR was benign, EKG did not 
show any acute changes. After ICU patient was alert and oriented 
only to self. Delirium resolved after 48 hours with minimal 
intervention, and patient was fully alert and oriented on 
discharge. At home patient requires 2L NC Oxygen during sleep 
only. Pt placed on prophylactic Heparin SC 5000U BID (given her 
poor renal function). Pain controlled well with low dose IV 
Dilaudid (.125mg q3H:PRN). Evaluated by ___ who recommends 
___ rehab. Given patient's multiple recent 
hospitalizations she will likely require a long term care 
facility. At discharge ___ worked with the patient on a daily 
basis, their recs are below, see their note for more detail.
.
## ALTERED MENTAL STATUS - Pt was AAOx3 on admission, post-op 
patient was AAO to self only. Likely related to sedation, pain 
medication, and hospital setting. After ICU discharge, we 
minimized noise and interventions, re-oriented the patient 
frequently. Delirium resolved within 48 hours and on discharge, 
pt was clear/coherent and AAOx3.
.
## ___ RECS: L hip ROM, therex program, transfer, gait, and 
balance training, IS training Frequency / Duration: ___, 
Please encourage all meals OOB, Lock out knees of bed to prevent 
knee/hip flexion contracture, Please lay patient flat (as 
tolerated ) 30 min/TID
.
## HUMERAL FRACTURE - Communited nondisplaced proximal humeral 
fracture on imaging. Non operable at this admission per Ortho. 
In sling and pain controlled well. Discuss as outpatient at 
follow-up appointment with orthopedics.
.
## HOME SITUATION - Pt's main support is ___ niece), who 
can be reached at ):  ___. Currently 
patient lives alone with ___. Due to multiple hospital 
admissions in the recent several months, and lack of support 
from family, pt will need a 24 hour care facility.
.
## CKD - Patient's Cr was at baseline during this admission 
(1.2-1.5). We renally dosed medications, held her Gemfibrozil, 
avoided Morphine, and avoided LMWH. Pt had appropriate urine 
output during her stay. 
.
## LOW BICARB - patient had non anion gap acidosis in the ICU. 
Bicarb remained ___ on the floors. Patient was asymptomatic 
during admission and Lactate 1.1 on ___. We encouraged PO 
intake and continued IVF as needed. 
.
-------
CHRONIC
-------
## hypothyroid - We continued her home dose levothyroxine 
50mg/day  
.
## GERD - we continued her home dose famotidine  20mg BID.
.
## HTN - at home on amlodipine 5mg/day, atenolol 50mg/day and 
iso mononitrate 60mg/day. BP meds were held due to low BPs in 
the ICU, restarted amlodipine and metoprolol at 12.5mg BID day 
of discharge. Consider increasing beta blocker per BP and HR. 
Consider restarting Isosorbide Mononitrate based on her BP and 
HR.
.
## Hyperlipidemia - We did not restart gemfibrozil given her 
renal function. 
.
## TRANSITIONAL
- Consider increasing patient's dose of beta blocker (admitted 
on Atenolol 50mg daily, discharged on metoprolol 12.5 mg BID) as 
appropriate based on HR and BP
- Consider restarting patient on isosorbide mononitrate 60mg 
daily once appropriate based on patient's BP and HR
- Consider starting Iron for microcytic anemia
- Continue prophylactic anticoagulation with Heparin SQ 5000U 
BID until ___
- Continued to hold 
- Monitor renal function and hydration status, pt has multiple 
admissions for poor hydration
- Coordinate plan with orthopedics for left humeral fracture as 
outpatient
 
Medications on Admission:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
 
8 hours).  
2. isosorbide mononitrate 20 mg Tablet Sig: Three (3) Tablet PO  

DAILY (Daily).  
3. gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO BID (2 times 
 
a day): *Hold until ___. Recheck serum creatinine ___ and  
restart if creatinine stable at 1.6 or less.  
4. levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
5. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
 
times a day).  
8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a  
day) as needed for constipation.  
9. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2)  
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for  
constipation.  
10. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig:  
One (1) Adhesive Patch, Medicated Topical DAILY (Daily): Apply  
to left lateral chest.  
11. sodium chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal  

QID (4 times a day) as needed for congestion.  
12. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

13. dextromethorphan-guaifenesin ___ mg/5 mL Syrup Sig: Five  

(5) ML PO Q6H (every 6 hours) as needed for cough.  
14. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1)  
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
15. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times  

a day).
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Amlodipine 5 mg PO DAILY 
hold for sbp < 100, hr < 60 
3. Docusate Sodium 200 mg PO BID 
4. Famotidine 20 mg PO Q24H 
5. Heparin 5000 UNIT SC BID 
last dose ___ 
6. Levothyroxine Sodium 50 mcg PO DAILY 
7. Metoprolol Tartrate 12.5 mg PO BID 
hold for sbp < 100, hr < 60 
8. Senna 1 TAB PO BID:PRN constipation 
9. Bisacodyl 10 mg PO BID:PRN constipation 
10. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
hold for rr<12 or somnolence 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left proximal femur fracture
Left proximal humerus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear MS. ___,

You were admitted from ___ after a fall. 
An X-Ray of your hip and shoulder revealed a broken bone near 
your left shoulder and a boken bone in your left hip. The 
orthopedic doctors saw and ___, and decided to perform 
surgery on your left hip. The operation was successful and your 
left hip was repaired. After surgery you had difficulty 
breathing and required a transfer to the ICU. Within 24 hours 
you were discharged from the ICU, breathing on your own. You 
were evaluated by physical therapists who recommend ___ 
rehab facility. 

You will need to continue blood thinners with heparin injected 
three times per day for 14 additional days beyond discharge. You 
will need ___ rehabilitation after this operation.  Due to 
the multiple hospital admissions in the recent months, you will 
also need full nursing home care.

MEDICATION:
STOP Isosorbide mononitrate 
STOP Gemfibrozil 
START Unfractionated Heparin 5000U injected into skin twice/day
CHANGE Atenolol 50mg once per day to Metoprolol 12.5mg twice per 
day
CONTINUE all other medications as you were before
 
Followup Instructions:
___